US05446065
1-[4-[2-(4-Chlorophenylsulphonylamino)-ethyl]-phenyl]-2-aminoethane
1-[3-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenoxy]-2-cyanoethane, m.p. 90°-93° C. which can be prepared by heating to 110° C. for 5 hours s mixture of 3-[2-[4-chlorophenylsulphonylamino)-ethyl]-phenoxy]-acetamide (1 mol), P2O5 (2 mol) and toluene. Yield 63% of theory; m.p. 94° C.

reactant | 1-[3-[2-(4-chlorophenylsulphonylamino)-ethyl]-phenoxy]-2-cyanoethane | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(OCCC#N)C=CC1 | C17H17ClN2O3S
reactant | acetamide | 1 mol | C(C)(=O)N | C2H5NO
reactant | P2O5 | 2 mol | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[4-[2-(4-Chlorophenylsulphonylamino)-ethyl]-phenyl]-2-aminoethane | Yield 63% | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)CCN | C16H19ClN2O2S
